US04621089
Ethyl 7-chloro-1H-pyrazolo[4,3-b]pyridine-5-carboxylate
Ethyl 4,7-dihydro-7-oxo-1H-pyrazolo[4,3-b]pyridine-5-carboxylate (5.0 g, 24 mmol) was heated under reflux in phosphoryl chloride (50 ml) for 25 min. Excess reagent was removed in vacuo and the residue was treated with water to give a yellow solid. After neutralisation with 10% sodium hydroxide solution, the solid was collected and dried to give the title compound (4.48 g, 83%), m.p. 276°-279° C. after recrystallisation from ethyl acetate.

reactant | Ethyl 4,7-dihydro-7-oxo-1H-pyrazolo[4,3-b]pyridine-5-carboxylate | 24 mmol, 5.0 g | O=C1C2=C(NC(=C1)C(=O)OCC)C=NN2 | C9H9N3O3
reactant | phosphoryl chloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 7-chloro-1H-pyrazolo[4,3-b]pyridine-5-carboxylate | 4.48 g, 83% | ClC1=C2C(=NC(=C1)C(=O)OCC)C=NN2 | C9H8ClN3O2
